US06407248B1
N2-Methoxy-2-nitro-N1-(3-pyridylmethyl)acetamidine (Compound 66)
To 3 ml of isobutyl alcohol was added 0.75 g (0.0033 mole) of 1-methylthio-1-(3-pyridylmethyl)amino-2-nitroethylene, followed by addition of 0.56 g of 0-methylhydroxylamine hydrochloride at 100-110° C. Then, a solution of 0.93 ml of triethylamine in 1 ml of isobutyl alcohol was added dropwise at the same temperature with stirring over a period of 30 minutes. After completion of dropwise addition, the reaction mixture was allowed to cool to room temperature and the solvent was distilled off. The residue was purified by silica gel column chromatography [eluents: MeOH—CHCl3 (1:3) in the first run and MeOH—CHCl3 (1:10) in the second run] to give 0.23 g of the title compound as yellow crystals.

reactant | 1-methylthio-1-(3-pyridylmethyl)amino-2-nitroethylene | 0.0033 mole, 0.75 g | CSC(=C[N+](=O)[O-])NCC=1C=NC=CC1 | C9H11N3O2S
reactant | 0-methylhydroxylamine hydrochloride | 0.56 g | CO[NH3+].[Cl-]
reactant | triethylamine | 0.93 ml | C(C)N(CC)CC | C6H15N
solvent | isobutyl alcohol | 1 ml | C(C(C)C)O | C4H10O
solvent | isobutyl alcohol | 3 ml | C(C(C)C)O | C4H10O
product | N2-Methoxy-2-nitro-N1-(3-pyridylmethyl)acetamidine | 0.23 g | CON=C(C[N+](=O)[O-])NCC=1C=NC=CC1 | C9H12N4O3
